US09290499B2
To a solution of tert-Butyl-4-((6-(methylthio)-3-phenyl-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)cyclohexylcarbamate (0.14 g, 0.3 mmol) in methylene chloride (5 mL) was added meta-chloroperoxybenzoic acid (0.20 g, 0.9 mmol) at room temperature. After stirring at room temperature for 2 h, the light purple solution was quenched with a 1.0 N aqueous solution of NaOH. The aqueous layer was extracted with EtOAc (3×). The organic layers were combined, dried (Na2SO4), and concentrated. The residue was dissolved in THF (1 mL), followed by the addition of ethylamine (1.5 mL, 2.0 M in THF, 3 mmol). The resulting solution was heated at 60° C. for 2 h, cooled to room temperature, and concentrated. The crude mixture was purified by Isco to provide tert-butyl 4-((6-(methylamino)-3-phenyl-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)cyclohexylcarbamate (0.085 g, 81%) as a white solid.

reactant | tert-Butyl-4-((6-(methylthio)-3-phenyl-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)cyclohexylcarbamate | 0.3 mmol, 0.14 g | C(C)(C)(C)OC(NC1CCC(CC1)CN1N=C(C=2C1=NC(=NC2)SC)C2=CC=CC=C2)=O | C24H31N5O2S
reactant | meta-chloroperoxybenzoic acid | 0.9 mmol, 0.20 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | ethylamine | 3 mmol, 2.0 M, 1.5 mL | C(C)N | C2H7N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-((6-(methylamino)-3-phenyl-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)cyclohexylcarbamate | 0.085 g, 81% | CNC1=NC=C2C(=N1)N(N=C2C2=CC=CC=C2)CC2CCC(CC2)NC(OC(C)(C)C)=O | C24H32N6O2
